US05635395
Preparation of (4R)-1,4-dihydro-2,6-dimethyl-3-(2-nicotinoylaminoethyl)oxycarbonyl-4-(3-nitrophenyl)pyridine-5-carboxylic acid
Botryodioplodia sp. FI-741 was inoculated on 30 ml medium FI (2% potato starch, 2% ESUSAN Meat, 0.1% KH2PO4, 0.05% MgSO4 7H2O, 1% glucose, 0.05% Adekanol LG109) charged in an Erlenmeyer flask of 250 ml volume. Incubation was performed at 28° C. for 3 days. A solution of 60 mg of 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylic acid bis(2-nicotinoylaminoethyl)ester dihydrochloride in 0.75 ml of distilled water was added to the culture broth obtained. Shaking was continued for further 2 days at 28° C. Thereafter the culture broth was treated in a manner similar to Example 1-1) to give 8 mg of the title compound in an optical purity of 100%.

reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)pyridine-3,5-dicarboxylic acid bis(2-nicotinoylaminoethyl)ester dihydrochloride | 60 mg | Cl.Cl.C(C1=CN=CC=C1)(=O)NCCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCNC(C1=CN=CC=C1)=O)C)C
solvent | water | 0.75 ml | O | H2O
product | (4R)-1,4-dihydro-2,6-dimethyl-3-(2-nicotinoylaminoethyl)oxycarbonyl-4-(3-nitrophenyl)pyridine-5-carboxylic acid | 8 mg | CC=1NC(=C([C@H](C1C(=O)OCCNC(C1=CN=CC=C1)=O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C | C23H22N4O7
